US07001904B1
N-(2-chloro-6-methylphenyl)-N′-(2-hydroxyethyl)-N″-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]guanidine
Mercuric(II) oxide (0.107 g) was added to a mixture of 1-(2-chloro-6-methylphenyl)-3-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]thiourea (0.118 g), 2-aminoethanol (0.03 ml), chloroform (5 ml) and methanol (5 ml) and the resultant mixture was stirred at ambient temperature for 2 hours. The reaction mixture was filtered and the filtrate was evaporated. The residue was purified by column chromatography on silica using increasingly polar mixtures of methylene chloride and a 2M solution of ammonia gas in methanol as eluent. There was thus obtained the title compound (0.128 g); NMR Spectrum: (DMSOd6+CD3CO2D) 1.47–1.62 (m, 2H), 1.85–2.11 (m, 5H), 2.29 (s, 3H), 2.67 (s, 3H), 2.87 (t, 2H), 3.33 (d, 2H), 3.59 (t, 4H), 3.79 (s, 3H), 4.0 (d, 2H), 7.08 (s, 1H), 7.19–7.32 (m, 3H), 7.4 (d, 1H), 8.43 (s, 1H), 10.5 (br s, 1H); Mass Spectrum: M+H+ 513 and 515.

reactant | 1-(2-chloro-6-methylphenyl)-3-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]thiourea | 0.118 g | ClC1=C(C(=CC=C1)C)NC(=S)NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C24H28ClN5O2S
reactant | 2-aminoethanol | 0.03 ml | NCCO | C2H7NO
reactant | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 5 ml | CO | CH4O
product | N-(2-chloro-6-methylphenyl)-N′-(2-hydroxyethyl)-N″-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]guanidine | 0.128 g | ClC1=C(C(=CC=C1)C)NC(=NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C)NCCO | C26H33ClN6O3
